Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion, difficulty doing calculations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M h/o Hep C Cirrhosis (rxed w/ Harvoni), 
esophageal varices (s/p banding), and thrombocytopenia now p/w 1 
week of AMS.

Patient owns a ___, for which he does a 
significant amount of book-keeping and arithmetic. Over the past 
few weeks, he has had gradual onset of confusion, decreased 
focus, and difficulty performing calculations. According to his 
friends and family, pt has been having fluctuating confusion and 
disorientation over the past week. In addition, he feels like 
his short-term, but not long-term, memory has begun to suffer as 
well. He has never had these AMS symptoms before. He started on 
hydrocodone 1 week ago for his chronic abdominal pain, which has 
been ongoing for at least ___ years and is diffuse, crampy, 
associated with n/v. Pt completed a 7 day course of the 
hydrocodone today. Patient has taken opioids in the past for 
abdominal pain, but he has never had this AMS. Pt reports that 
he has decreased BMs every time he takes opioids, with this most 
recent usage causing a change of BM every day to BM every 3 
days. 

Yesterday he had increased confusion and his wife urged him to 
come to the ED. 

ROS was negative for fevers, chills, abdominal pain, headaches, 
cough, chest pain, dysuria, rash, no hematemesis, hematochezia, 
melena. 

In the ED, initial VS were: 97.8, 102, 148/83, 18, 99% RA   
Exam notable for: Rash on palms, no asterixis, bedside US 
negative for ascites  
Labs showed: CBC 3.0/13.3/40.2/41, LFTs wnl, Lactate 2.8, INR 
1.4, urine oxycodone positive, UA negative, serum tox negative   
 
Imaging showed
- CT Head: No acute abnormalities 
- CXR: No acute process   
Received: 1L NS  

On arrival to the floor, patient states that he is feeling 
slightly better but still disorientated. This confusion concerns 
him because he needs to get back to his business in order to 
support his family.
 
Past Medical History:
Hep C Cirrhosis
Chronic Abdominal Pain  
 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.6, 140/83, 89 18 95 Ra 
GENERAL: NAD, speech minimally dysarthric   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no ascites
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: No asterixis, A&Ox3, moving all 4 extremities with 
purpose, unable to perform serial 7s (100 - 7 = 103, with 
prompting was able to then say 93 but unable to subtract past 
then).   
SKIN: warm and well perfused, palmar erythema   

DISCHARGE PHYSICAL EXAM:
VITALS - 97.6, 139/79-140/83, ___ RA
GENERAL: NAD, speech a little slurred 
HEENT: Anicteric sclera, pink conjunctiva, MMM
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: nondistended, slightly tender to palpation in all 
quadrants, no rebound/guarding, no ascites
EXTREMITIES: no edema
PULSES: 2+ DP pulses bilaterally  
NEURO: No asterixis, A&Ox3, EOMI, PERRL, CNII-XII intact, 4+/5 
strength bilaterally on upper and lower extremities, unable to 
perform serial 7s beyond 93, but could name days of the week 
backwards.
SKIN: WWP, palmar erythema  
 
Pertinent Results:
ADMISSION LABORATORY STUDIES
=====================================
___ 07:50PM BLOOD WBC-3.0* RBC-4.46* Hgb-13.3* Hct-40.2 
MCV-90 MCH-29.8 MCHC-33.1 RDW-14.2 RDWSD-46.1 Plt Ct-41*
___ 07:50PM BLOOD Neuts-70.7 Lymphs-15.8* Monos-10.6 
Eos-2.3 Baso-0.3 Im ___ AbsNeut-2.14 AbsLymp-0.48* 
AbsMono-0.32 AbsEos-0.07 AbsBaso-0.01
___ 08:06PM BLOOD ___ PTT-34.0 ___
___ 07:50PM BLOOD Glucose-148* UreaN-14 Creat-0.8 Na-139 
K-3.5 Cl-101 HCO3-30 AnGap-12
___ 07:50PM BLOOD ALT-20 AST-36 AlkPhos-100 TotBili-1.2
___ 07:50PM BLOOD Albumin-4.4
___ 07:15AM BLOOD Albumin-4.0 Calcium-9.0 Phos-2.6* Mg-2.0
___ 07:50PM BLOOD VitB12-721
___ 07:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:05PM BLOOD Lactate-2.8*
___ 07:38AM BLOOD Lactate-1.8

DISCHARGE LABORATORY STUDIES
=====================================
___ 07:15AM BLOOD WBC-2.7* RBC-4.52* Hgb-13.9 Hct-40.0 
MCV-89 MCH-30.8 MCHC-34.8 RDW-14.3 RDWSD-46.1 Plt Ct-51*
___ 07:15AM BLOOD Neuts-69.2 Lymphs-17.8* Monos-10.0 
Eos-2.6 Baso-0.4 Im ___ AbsNeut-1.87 AbsLymp-0.48* 
AbsMono-0.27 AbsEos-0.07 AbsBaso-0.01
___ 07:15AM BLOOD Glucose-113* UreaN-13 Creat-0.8 Na-143 
K-3.8 Cl-107 HCO3-26 AnGap-14
___ 07:15AM BLOOD ALT-21 AST-39 AlkPhos-89 TotBili-1.4

IMAGING/REPORTS
=====================================
RUQ ULTRASOUND
1. Patent hepatic vasculature.  No focal liver lesions. 
2. No ascites. 
3. Splenomegaly. 

CXR
IMPRESSION:  No acute intrathoracic process

CT HEAD 
No acute intracranial abnormalities. 

 
Brief Hospital Course:
___ w/ Hepatitis C Cirrhosis (s/p Harvoni), esophageal varices 
(s/p banding), and thrombocytopenia now presenting with 1 week 
of altered mental status, and found to have mild hepatic 
encephalopathy (improved with lactulose).

ACTIVE ISSUES
=============
#) HEPATIC ENCEPHALOPATHY
Patient with history of Hep C cirrhosis presented with subtle 
changes in mental status, difficulty with calculations, and 
subjective disorientation that have presented gradually over the 
past several weeks in the setting of cirrhosis and decreased 
bowel movements ___ opioid usage, which was strongly suggestive 
for mild hepatic encephalopathy. Exam notable for difficulty 
with serial 7s, but no asterixis. Laboratory studies and 
infectious workup unrevealing. Precipitant thought to be recent 
opioid use and constipation. Treated with lactulose with 
improvement. 

CHRONIC/STABLE ISSUES
=====================
# Hep C Cirrhosis (s/p sustained virologic response with 
Harvoni), ___ class A, MELD-NA 12, complicated by 
esophageal varices (s/p banding, last EGD in ___: 
Patient with no prior history of hepatic encephalopathy or 
ascites, now presenting with hepatic encephalopathy (see above) 
but was otherwise compensated. 

# Chronic abdominal pain: Patient has ___ year history of chronic 
abdominal pain, followed by ___ pain management center. 
Patient being managed with zofran, previously tramadol and 
currently completing a course of hydrocodone. While admitted, 
opioids were discontinued and patient was kept on Zofran for 
nausea, started on Tylenol (2 g daily max because of cirrhosis) 
and lidocaine patches for pain management.

# Coagulopathy: INR 1.4 near baseline, likely in setting of 
cirrhosis

# Leukopenia, thrombocytopenia: Chronic, stable near baseline, 
likely in the setting of cirrhosis.

TRANSITIONAL ISSUES
====================================
1. Pt should continue taking lactulose, and avoid narcotics 
(which likely precipitated the hepatic encephalopathy).
2. Pt should have follow up with pain service as an outpatient 
for management of chronic abdominal pain.

# CODE: Presumed full
# CONTACT: Name of health care proxy: ___ 
Relationship: wife 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. HYDROcodone-Acetaminophen (5mg-325mg) Dose is Unknown  PO 
Q8H:PRN Pain - Mild 
2. Ondansetron 4 mg PO BID:PRN nausea 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
Because of your liver cirrhosis, do not exceed 2 g of Tylenol 
per day  
2.  Lactulose 15 mL PO Q8H:PRN constipation 
titrate ___ bowel movements/day 
RX *lactulose 10 gram/15 mL (15 mL) 15 ml by mouth Q8H:PRN 
Refills:*0 
3.  Ondansetron 4 mg PO BID:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Heptatic encephalopathy

Secondary:
Hepatitis C cirrhosis
Chronic abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospital stay 
at ___. You were hospitalized 
for altered mental status and found to likely have a buildup of 
toxic molecules, caused by liver dysfunction and decreased bowel 
movements, that was affecting your thinking.  You were given 
lactulose to help with your bowel movements. On discharge, it is 
important for you to continue taking lactulose as prescribed and 
to AVOID narcotics (like hydrocodone).

Please attend all follow-up appointments with your primary care 
physician, and specialists upon discharge from the hospital.

Take Care,
Your ___ Team
 
Followup Instructions:
___